US07297816B2
(S)-3-(3,4-Dichloro-phenyl)-2-[4-iodo-2-(quinoxaline-5-sulfonylamino)-benzoylamino]-propionic acid
4-Iodo-2-(quinoxaline-5-sulfonylamino)-benzoic acid was coupled with (S)-2-amino-3-(3,4-dichloro-phenyl)-propionic acid methyl ester hydrochloride as in Example 1, Part C. The resulting methyl ester was hydrolyzed as in EXAMPLE 2, Part E, to afford the title compound. HPLC: RT=10.05 min. MS (ESI−): mass calcd. for C24H17Cl2IN4O5S, 671.29; m/z found, 669/671 [M−H]−. 1H NMR (500 MHz, CDCl3): 10.86 (s, 1H), 9.01 (d, J=1.6, 1H), 8.92 (d, J=1.6, 1H), 8.55 (dd, J=7.3,1.0, 1H), 8.32 (dd, J=8.5, 1.0, 1H), 8.08 (d, J=1.3, 1H), 7.91-7.88 (m, 1H), 7.34 (d, J=8.2, 1H), 7.30-7.24 (m, 2H), 6.98 (dd, J=8.2, 1.9, 1H), 6.88 (d, J=8.2, 1H), 6.38 (d, J=7.3, 1H), 4.90 (q, J=5.9, 1H), 3.28-3.12 (m, 2H).

reactant | 4-Iodo-2-(quinoxaline-5-sulfonylamino)-benzoic acid | IC1=CC(=C(C(=O)O)C=C1)NS(=O)(=O)C=1C=2N=CC=NC2C=CC1 | C15H10IN3O4S
reactant | (S)-2-amino-3-(3,4-dichloro-phenyl)-propionic acid methyl ester hydrochloride | Cl.COC([C@H](CC1=CC(=C(C=C1)Cl)Cl)N)=O
product | (S)-3-(3,4-Dichloro-phenyl)-2-[4-iodo-2-(quinoxaline-5-sulfonylamino)-benzoylamino]-propionic acid | ClC=1C=C(C=CC1Cl)C[C@@H](C(=O)O)NC(C1=C(C=C(C=C1)I)NS(=O)(=O)C=1C=2N=CC=NC2C=CC1)=O | C24H17Cl2IN4O5S
